US09079888B2
Step (i): Preparation of tert-Butyl 4-[3-fluoro-4-(2-(morpholin-4-yl)acetylamino) phenoxy]piperidine-1-carboxylate
A mixture of tert-Butyl 4-[4-(2-Chloro acetylamino)-3-fluoro phenoxy]piperidine-1-carboxylate (3.31 g, 0.0085 moles, obtained in preparation 3), morpholine (0.89 g, 0.01 moles) and potassium carbonate (1.75 g, 0.012 moles) in acetonitrile (30 mL) was stirred for 5 hours at reflux temperature. The mixture was concentrated under reduced pressure and the residue, thus obtained, was partitioned between ethyl acetate (50 mL) and water (50 mL). The resulted aq. Phase was extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with brine solution, dried over sodium sulfate and concentrated. The crude compound was purified by flash chromatography (ethyl acetate:hexane, 3:7) to obtain the title compound 3.1 g (Yield: 83.5%).

reactant | tert-Butyl 4-[4-(2-Chloro acetylamino)-3-fluoro phenoxy]piperidine-1-carboxylate | 0.0085 moles, 3.31 g | ClCC(=O)NC1=C(C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)F | C18H24ClFN2O4
reactant | morpholine | 0.01 moles, 0.89 g | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 0.012 moles, 1.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | tert-Butyl 4-[3-fluoro-4-(2-(morpholin-4-yl)acetylamino) phenoxy]piperidine-1-carboxylate | 3.1 g, Yield: 83.5% | FC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1NC(CN1CCOCC1)=O | C22H32FN3O5
